US06897210B2
Using a method analogous to that in Example 47, 4-(4-bromo-2-fluoroanilino)7-hydroxy-6-methoxyquinoline (146 mg, 0. mmol) in methylene chloride (5 ml) was treated with 1-(3hydroxypropyl)-2-pyrrolidinone (86 mg, 0.6 mmol), triphenylphosphine (314 mg, 1.2 mmol) and diethyl azodicarboxylate (209 mg, 1.2 mmol) and was purified and isolated to give 4-(4-bromo-2-fluoroanilino)-methoxy-73(oxopyrrolidin-1-yl)propoxy)quinazoline hydrochloride (140 mg, 67%).

reactant | 4-(4-bromo-2-fluoroanilino)7-hydroxy-6-methoxyquinoline | 146 mg | BrC1=CC(=C(NC2=CC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C16H12BrFN2O2
reactant | 1-(3hydroxypropyl)-2-pyrrolidinone | 0.6 mmol, 86 mg | OCCCN1C(CCC1)=O | C7H13NO2
reactant | triphenylphosphine | 1.2 mmol, 314 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.2 mmol, 209 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | quinazoline hydrochloride | 140 mg, 67% | Cl.N1=CN=CC2=CC=CC=C12 | InChI=1S/C8H6N2.ClH/c1-2-4-8-7(3-1)5-9-6-10-8;/h1-6H;1H
